US06723722B1
(3S)-1,3-bis(tert-Butoxycarbonylamino)-2-pyrrolidone
A solution of tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate methylsulfonium iodide (18 g) in DMF (200 ml) was combined with sodium hydride (3.93 g, in oil) with cooling on ice, and then stirred at room temperature for 3 hours The reaction mixture was combined with ice-water, and extracted with ethyl acetate, and the organic phase was washed with water and brine, dried and concentrated to obtain a residue, which was triturated from isopropyl ether/hexane (1/1) solution, collected by filtration, washed with isopropyl ether/hexane (1/1) solution and dried to obtain the title compound (5.7 g) as a colorless solid.

reactant | tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate methylsulfonium iodide | 18 g | [I-].C[SH2+].C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)NNC(=O)OC(C)(C)C
reactant | sodium hydride | 3.93 g | [H-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | (3S)-1,3-bis(tert-Butoxycarbonylamino)-2-pyrrolidone | 5.7 g | C(C)(C)(C)OC(=O)NN1C([C@H](CC1)NC(=O)OC(C)(C)C)=O | C14H25N3O5
